2191-11-20 12:51:00 Physician Resident Progress Note
24 hour events:
   - Patient went to OR with podiatry, 2^nd and 3^rd toes of right foot
   amputated. Vascular surgery consulted in OR, plan will be to go back
   for likely TMT or BKA after wound has a chance to drain further.
   - Remained on insulin drip given possibility for return to OR.
   This morning without complaints, some
pins and needles
 in her right
   foot, but no pain. Daughters at
   bedside.
   Allergies:
   Last dose of Antibiotics:
   Piperacillin - [**2191-11-20**] 01:54 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-11-19**] 07:37 PM
   Heparin Sodium (Prophylaxis) - [**2191-11-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems: N/A
   Flowsheet Data as of  [**2191-11-20**] 12:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 80 (69 - 101) bpm
   BP: 113/45(63) {88/39(51) - 123/56(71)} mmHg
   RR: 21 (11 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,248 mL
                                                                  1,550 mL
   PO:
             250 mL
   TF:
   IVF:
                                                                  2,248 mL
                                                                  1,300 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    405 mL
   Urine:
                                                                    375 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,273 mL
                                                                  1,145 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General: Awake, alert, in NAD, pleasant
   HEENT: NC/AT, MMM, clear oropharnyx, no scleral icterus
   Lungs: CTAB no w/r/r
   Cardiac: RR, S1, S2, no m/g/r
   Abd: soft, +BS, NT, ND
   Ext: Warm, dressing in place over right foot, no edema/cyanosis
   Neuro: A&Ox3
   Labs / Radiology
   324 K/uL
   9.4 g/dL
   205 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.1 mEq/L
   26 mg/dL
   109 mEq/L
   137 mEq/L
   27.9 %
   22.8 K/uL
        [image002.jpg]
                            [**2191-11-19**]  08:35 PM
                            [**2191-11-20**]  03:04 AM
   WBC
   22.8
   Hct
   27.9
   Plt
   324
   Cr
   0.9
   0.7
   Glucose
   218
   205
   Other labs: Ca++:7.4 mg/dL, Mg++:1.4 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   This is a 80 yo female w/h/o DM2 and medical noncompliance who is
   admitted with hyperglycemia and right foot cellulitis, right second toe
   osteomyelitis.
   # Right second toe osteomyelitis/right foot cellulitis: Patient has had
   some systemic symptoms that could be related to insidious infection,
   such as mild fatigue and decreased appetite (also could be [**12-25**] to
   uncontrolled DM). No evidence of SIRS at this time. Hemodynamically
   stable. Lactate 1.6. WBCs trending down from over 30. Blood cx from OSH
   this AM positive for strep 2 of 2 bottles. Suspect that patient
s foot
   is obvious source, but unclear how long this could have been seeding
   bloodstream, so potential for other sites of infection as well.
   - f/u OSH cx (sensitivies and further speciation)
   - Blood cx pending, deep tissue cx data pending (podiatry send this
   from OR)
   - Appreciate podiatry and vascular surgery assistance (Dr. [**Last Name (STitle) **]
   team, vascular team A)
   - Trend WBCs
   - Continue vanc/zosyn pending further speciation and sensitivities of
   culture data
   - PICC for long term antibiotics (will likely obtain tomorrow)
   - TTE to evaluate for endocarditis, surveillance cultures
   .
   # Hyperglycemia: Patient
s presentation fits more with DKA (ketones in
   urine, gap, not markedly hyperosmolar state). She was initially
   confused and had large AG. Her gap has closed and she is currently
   oriented x 3. Given history of non-compliance, will need to further
   delineate social network and patient
s ability to care for herself. She
   is also in need of a great deal of teaching regarding her diabetes
   mellitus. She appears to have neuropathy, and may have some retinopathy
   given history of blurry vision.
   - continue insulin gtt, will transition to lantus with short acting for
   meals/correction and uptitrate lantus as needed based on short acting
   needs.
   - Will switch over to NS given gap has closed, still w/poor PO intake.
   - treat infection as above
   - [**Last Name (un) 72**] consult
   - Hb A1c pending.
   - SW consult for assistance with further evaluating social needs
   # ARF: Resolved, suspect was [**12-25**] to relative hypovolemia.
   - IVF hydration as above
   - urine lytes
   - trend Cr w/fluid resuscitation
   ICU Care
   Nutrition:
   DM diet, likely will need to be NPO for possible OR tomorrow
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-11-19**] 06:00 PM
   20 Gauge - [**2191-11-19**] 06:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-11-21 11:31:00 Physician Attending Progress Note
Chief Complaint: DKA/HNK acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 year old woman with diabetic foort infection complicated by DKA/HNK
   . Now s/p L toe amputation. Please see previous notes for details.
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Piperacillin - [**2191-11-21**] 12:22 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-11-20**] 07:51 PM
   Famotidine (Pepcid) - [**2191-11-20**] 07:52 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-21**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 78 (65 - 80) bpm
   BP: 119/56(70) {83/37(48) - 126/65(78)} mmHg
   RR: 15 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,054 mL
                                                                    924 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                  2,554 mL
                                                                    924 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    740 mL
   Urine:
                                                                    815 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,239 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   329 K/uL
   127 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   17 mg/dL
   106 mEq/L
   136 mEq/L
   28.8 %
   14.6 K/uL
        [image002.jpg]
                            [**2191-11-19**]  08:35 PM
                            [**2191-11-20**]  03:04 AM
                            [**2191-11-20**]  04:49 PM
                            [**2191-11-21**]  03:39 AM
   WBC
   22.8
   14.6
   Hct
   27.9
   28.8
   Plt
   324
   329
   Cr
   0.9
   0.7
   0.7
   0.6
   Glucose
   [**Telephone/Fax (3) 3607**]27
   Other labs: Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   80 year old woman with diabetic foot infection c/b DKA/HNK now
   resolved. S/P toe amputation and on vanc/zosyn with OR cultures
   pending. Further plans
   as per resident note. Okay to transfer to floor.
   ICU Care
   Nutrition:
   Comments: Diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2191-11-20**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2191-11-21 15:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   s/p 2nd/3rd right toe amputation and debridement
   podiatry considering further surgery, ie foot amputation
   echo performed, read pending
   History obtained from Patient
   Allergies: NKDA
   History obtained from Patient
   Last dose of Antibiotics:
   Piperacillin - [**2191-11-21**] 12:22 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-11-21**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-11-20**] 07:51 PM
   Famotidine (Pepcid) - [**2191-11-20**] 07:52 PM
   Other medications:
   Vanco 1000mg Q48
   Zosyn 2.25 q6H
   Glargine 10 units daily
   HISS
   oxycodone prn
   tylenol prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2191-11-21**] 03:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 77 (65 - 78) bpm
   BP: 129/60(79) {91/42(53) - 129/65(79)} mmHg
   RR: 19 (9 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,054 mL
                                                                  1,150 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                  2,554 mL
                                                                  1,150 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    920 mL
   Urine:
                                                                    815 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,239 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   329 K/uL
   9.5 g/dL
   127 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   17 mg/dL
   106 mEq/L
   136 mEq/L
   28.8 %
   14.6 K/uL
        [image002.jpg]
                            [**2191-11-19**]  08:35 PM
                            [**2191-11-20**]  03:04 AM
                            [**2191-11-20**]  04:49 PM
                            [**2191-11-21**]  03:39 AM
   WBC
   22.8
   14.6
   Hct
   27.9
   28.8
   Plt
   324
   329
   Cr
   0.9
   0.7
   0.7
   0.6
   Glucose
   [**Telephone/Fax (3) 3607**]27
   Other labs: Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   # R foot oseomyelitis:  hemodynamically stable
   - s/p right 2nd and 3rd toe amputation
   - on vancomycin/zosyn emperically
   - f/u podiatry and vascular recommendations
   - f/u echo final read; may need TEE to r/o endocarditis
   - f/u micro data
   - trend WBC
   # bacteremia:  OSH records show 2 cultures postive with Strep
   Agalactiae
   - vancomycin/zosyn, day 1 = [**11-19**] (first day negative blood cultures)
   # HONC: DM2, admitted with ketones and AG.  Gap now closed and patient
   transitioned off insulin gtt
   - maintenance fluids, hep lock when taking good POs
   - Glargine insulin plus humalog sliding scale
   - monitor lytes
   - treat infection as above
   # ARF: Cr peaked 1.2.  Now resolved.
   - IVFs prn
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-11-20**] 04:00 PM
   PICC Line - [**2191-11-21**] 03:05 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition: called out to floor